US05304325
1,2-Dioleylglycerol (Scheme Ib)
A 250 ml flask equipped with a dry ice condenser and a dry ice-acetone bath was charged with anhydrous NH3 (140 ml). After cooling to -65° C. under N2 Li wire (1.35 g) was added in small pieces. Dioleylbenzylglycerol (10 g, .0146 mol) in THF (60 ml) and EtOH (12 g) was added over 30 minutes and then stirred at -65° C. for 15 minutes. The dry ice bath was removed and the reaction mass allowed to warm to room temperature, with evaporation of NH3. Water (100 ml) and heptane (150 ml) were added. The organic phase was washed with water, dried (MgSO4) and stripped of solvent yielding a light yellow oil (7.8 g, 90%).

reactant | NH3 | 140 ml | N | H3N
reactant | Dioleylbenzylglycerol | .0146 mol, 10 g | C(CCCCCCC\C=C/CCCCCCCC)C(C(C(O)CC1=CC=CC=C1)O)(O)CCCCCCCC\C=C/CCCCCCCC | C46H82O3
reactant | EtOH | 12 g | CCO | C2H6O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 1,2-Dioleylglycerol | 7.8 g, 90% | C(CCCCCCC\C=C/CCCCCCCC)OCC(OCCCCCCCC\C=C/CCCCCCCC)CO | C39H76O3
